US07906517B2
Tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethoxy-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (382 mg) is dissolved in methylene chloride (4 ml) and thereto are added pyridine (2 μl) and trifluoromethanesulfonic anhydride (144 μl) and the mixture is stirred under ice-cooling for 1 hour. Thereto is added an aqueous sodium bicarbonate solution and the mixture is separated and the organic layer is washed with a saturated brine, dried over magnesium sulphate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→4:1) to give tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-trifluoromethanesulfonyloxy-5-trifluoromethoxy-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (384 mg). MS (m/z): 802 [M+H]+

reactant | Tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethoxy-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 382 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)OC(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C29H28F9N3O5
reactant | pyridine | 2 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 144 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-trifluoromethanesulfonyloxy-5-trifluoromethoxy-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 384 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)OC(F)(F)F)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C30H27F12N3O7S
